US04508727
A mixture of 25 g of benzyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate, 29.3 g of anhydrous potassium carbonate, 50 g of methyl iodide and 200 ml of acetone is vigorously stirred at room temperature for 5 days. The mixture is concentrated under reduced pressure to remove solvent. Ethyl acetate and water are added to the residue, and the ethyl acetate layer is collected therefrom. The ethyl acetate solution is dried and concentrated under reduced pressure. The residue obtained is purified by silica gel chromatography and then triturated with ether. 18.2 g of benzyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate are thereby obtained as colorless crystals. Yield: 60.7%

reactant | benzyl (4S)-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 25 g | C(C1=CC=CC=C1)OC(=O)N1C(NC[C@H]1C(=O)OCC1=CC=CC=C1)=O | C19H18N2O5
reactant | potassium carbonate | 29.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 50 g | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | benzyl (4S)-1-methyl-3-benzyloxycarbonyl-2-oxo-imidazolidine-4-carboxylate | 18.2 g, Yield: 60.7% | CN1C(N([C@@H](C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)=O | C20H20N2O5
